data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C(C=C1)[C:20](=[O:21])CCC(=O)C2=CC=CO2.C(C(=O)O)[NH2:10].CC(=O)O>>C1=CC=C(C=C1)[C:20](CCC(=O)C2=CC=CO2)([NH2+:10]CC(=O)O)[O-:21].CC(=O)O 10=20;20,21=21
CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)C1(CCC(=O)C)[CH:20]=[O:21].[OH:10][Na].O>>CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)C1(CCC(=O)C)[CH:20]([O-:21])[OH+:10][Na].O 10=20;20,21=21
C[C+]=C(CC(CCC1=CC=CC=C1)[O:10][Ti-](Cl)(Cl)(Cl)Cl)[Si:20](C)(C)C>>C[C+]=C1CC([O+:10]([Si-:20]1(C)(C)C)[Ti-](Cl)(Cl)(Cl)Cl)CCC2=CC=CC=C2 10=20,
C[C:11](C)(C)[O:10][C:20](=[OH+:21])C1(C2=C(CCN1)C3=C(N2)C=CC=C3)C(=O)CC4=CC=CC=C4.C(=O)(C(F)(F)F)[O-]>>C[C+:11](C)C.C1CNC(C2=C1C3=C(N2)C=CC=C3)(C(=O)CC4=CC=CC=C4)[C:20](=[O:10])[OH:21].C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21
[H:20][OH2+:21].CC(CC=O)[O-:10]>>[H:20][O:10]C(C)CC=O.[OH2:21] 10=20;20,21=21
CCCCCC1CCC([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C>>CCCCCC1CCC2[CH:20](C1)[O+:10]=C(O2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C1CCC(CC1)NC(=NC2CCCCC2)O[C:20](=[O:21])CCC[NH2:10]>>C1CCC(CC1)NC(=NC2CCCCC2)O[C:20]3(CCC[NH2+:10]3)[O-:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(SC(=[N+]1CC2=CC=CC=C2)C(C3=CC=CC=C3)[O-:10])CCO.CC(=O)C=C.CC(=O)OCC(=O)C=C.[Cl-]>>[H:20][O:10]C(C1=CC=CC=C1)C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3.CC[N:21](CC)CC.CC(=O)C=C.CC(=O)OCC(=O)C=C.[Cl-] 10=20;20,21=21
[H:20][OH+:21]C1(C2CCC(C1(CC3=CC(=C(C=C23)OC)C)C)O)N4CCCC4.[OH2:10].[Cl-]>>[H:20][OH2+:10].CC1=C(C=C2C3CCC(C(C3(N4CCCC4)[OH:21])(CC2=C1)C)O)OC.[Cl-] 10=20;20,21=21
COC=[NH:10].[Cu:20](I)I>>COC=[NH+:10][Cu-:20](I)I 10=20,
[H:20][O:21]C(=O)C.COC(=[N:10]N(C(=O)OC)[P+](C)(C)C)[O-]>>[H:20][N+:10](=C([O-])OC)N(C(=O)OC)[P+](C)(C)C.CC(=O)[O-:21] 10=20;20,21=21
[B-]([O:10]CCOC12CCC(CCC1C3=C([C:20]2=[OH+:21])C=CC(=C3)C)C)(F)(F)F.CC[SiH](CC)CC>>[B-]([O+:10]1CCOC23[C:20]1(C4=C(C2CCC(CC3)C)C=C(C=C4)C)[OH:21])(F)(F)F.CC[SiH](CC)CC 10=20;20,21=21
[H:20][OH+:21]C(=NC1CCCCC1)C=C.[OH2:10]>>[H:20][OH2+:10].C=CC(=NC1CCCCC1)[OH:21] 10=20;20,21=21
CCO[C+:20]([CH:11]([CH:10]1CCCCC1)O[Al-](C)(C)C)C(C(F)(F)F)(F)F>>CCO[C:20]([CH+:11]O[Al-](C)(C)C)([CH:10]1CCCCC1)C(C(F)(F)F)(F)F 10,11=10,20
[H:20][OH2+:21].CC1CCCCC1(N2CCCC2)[O-:10]>>[H:20][O:10]C1(CCCCC1C)N2CCCC2.[OH2:21] 10=20;20,21=21
CC1=C(C=CC=C1)[CH:20]=[O:21].COC(=O)C[NH2:10].CC[NH+](CC)CC.[Cl-]>>CC1=C(C=CC=C1)[CH:20]([NH2+:10]CC(=O)OC)[O-:21].CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
CC1=C[C:10]2=C(O1)CC([C:20](=[C:11]2[O-:12])[N+:21]#N)(C)C.CC1=CC(=NC(=C1)C)C.C1=CC=C(C=C1)CO>>CC1=C[C:10]2=C(O1)CC([C:20]2=[C:11]=[O:12])(C)C.N#[N:21].CC1=CC(=NC(=C1)C)C.C1=CC=C(C=C1)CO 10,11=10,20;20,21=21;12=11
[CH2+:20][NH-:10]>>[CH2:20]=[NH:10] 10=20,
[H:20][O:21][C:22](=[O+:23]C(C)(C)C1=CC=CC=C1)C.CC(=[O:10])O>>[H:20][O+:10]=C(C)O.C[C:22](=[O:21])[O:23]C(C)(C)C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
[H:20][O:21]C.C1=CC=[C:10](C(=C1)CO)[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1CO.C[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
C[NH:10]C(=O)NC(C1=CC=CC=C1)C([C:20](=[OH+:21])C2=CC=CC=C2)C(=O)OC.O>>C[NH+:10]1C(=O)NC(C2=CC=CC=C2)C(C(=O)OC)[C:20]1(C3=CC=CC=C3)[OH:21].O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=CC1=CC=C(C=C1)C(=[O:10])O.CO>>[H:20][O+:10]=C(C1=CC=C(C=C1)C=C)O.OS(=O)(=O)[O-:21].CO 10=20;20,21=21
CC(=CC[C:20](=[O:21])C1=CC=CC=C1)[NH2:10].CC(=O)O.O>>CC1=CC[C:20]([NH2+:10]1)(C2=CC=CC=C2)[O-:21].CC(=O)O.O 10=20;20,21=21
CCCCO[Ti:20](OCCCC)(OCCCC)OCCCC.C(=CC=[O:10])C=CI.CC(=C)C=C(OC)O[Si](C)(C)C>>CCCCO[Ti-:20](OCCCC)(OCCCC)(OCCCC)[O+:10]=CC=CC=CI.CC(=C)C=C(OC)O[Si](C)(C)C 10=20,
CC(C)CC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCC(C)C)O>>CC(C)CC1=CC=C[N:21]=C1.CC(C)COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
CC[OH:10].C[CH:20]1C[OH+:21]1>>CC[OH+:10][CH:20](C)C[OH:21] 10=20;20,21=21
[H:20][O:21]C1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].C1=CC=C(C=C1)[O-:21] 10=20;20,21=21
CC(C)(C)[Si:20](C)(C)C.C[O-:10]>>CC(C)(C)[Si-:20](C)(C)(C)[O:10]C 10=20,
[H:20][N+:21]1=C(OC(=O)C1)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1=[N:21]CC(=O)O1 10=20;20,21=21
C1C[C:20](=[OH+:21])OC1.[OH2:10]>>C1C[C:20](OC1)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][CH:21]1C2C(CC[C:22]1=[NH+:23]NC3=CC=CC=C3)CCN2CCS(=O)C4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1C[C:22](=[CH:21]C2C1CCN2CCS(=O)C3=CC=CC=C3)[NH:23]NC4=CC=CC=C4.O 10=20;22,23=23;20,21=21,22
C[C:20](=[O:21])C1=CN=CC=C1.[NH2:10]O.C1=CC=[NH+]C=C1.[Cl-]>>C[C:20](C1=CN=CC=C1)([NH2+:10]O)[O-:21].C1=CC=[NH+]C=C1.[Cl-] 10=20;20,21=21
[H:20][OH+:21]C12CCCCC1CCCN2.[OH2:10]>>[H:20][OH2+:10].C1CCC2(C(C1)CCCN2)[OH:21] 10=20;20,21=21
[B-](C)(C)(C)[O+:21]=[CH2:20].C[Si](C)(C)C[CH:11]=[CH2:10]>>[B-](C)(C)(C)[O:21][CH2:20][CH2:10][CH+:11]C[Si](C)(C)C 10,11=10,20;20,21=21
[Li][O:10][C:20](CCC(=O)C)(C1=CC=CC=C1)[Cl:21]>>[Li][O+:10]=[C:20](CCC(=O)C)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
CC(C[OH:10])(C[O+:21]=[CH:20]C1=CC=CC=C1)C(=O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1(C[OH+:10][CH:20]([O:21]C1)C2=CC=CC=C2)C(=O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
C[CH:20]([O-:10])[O:21]C>>C[CH:20]=[O:10].C[O-:21] 10=20;20,21=21
[H:20][NH+:21]1CCCC1.C1CCC(CC1)(N2CCCC2)[O-:10].C1=CC=CC=C1>>[H:20][O:10]C1(CCCCC1)N2CCCC2.C1CC[NH:21]C1.C1=CC=CC=C1 10=20;20,21=21
